US07354932B2
To solution of {1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropyl}-methanol (0.41 g, 1.78 mmol) in CH2Cl2 (18 mL) was added Et3N (0.50 mL, 3.59 mmol) followed by methanesulfonyl chloride (0.21 mL, 2.71 mmol). The resultant mixture was stirred at room temperature for 17 hours. The mixture was diluted CH2Cl2 (50 mL), washed with brine (3×20 mL), dried (Na2SO4), and concentrated. The resultant oil was dissolved in DMF (16 mL), treated with potassium phthalimide (0.606 g, 3.27 mmol), and the mixture was heated at 80° C. for 6 hours then cooled to room temperature. The mixture was diluted with ethyl acetate (40 mL), brine (20 mL), and water (10 mL) and the phases were separated. The organic phase was washed with brine (3×10 mL), dried (MgSO4), and concentrated. The crude material was purified by column chromatography on silica gel (20:1 hexanes-ethyl acetate) and provided 0.24 g (38%) of 2-{1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropylmethyl}-isoindole-1,3-dione as a colorless oil.

reactant | {1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropyl}-methanol | 1.78 mmol, 0.41 g | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)CO | C12H26O2Si
reactant | Et3N | 3.59 mmol, 0.50 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.71 mmol, 0.21 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium phthalimide | 3.27 mmol, 0.606 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | water | 10 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropylmethyl}-isoindole-1,3-dione | 0.24 g, 38% | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)CN1C(C2=CC=CC=C2C1=O)=O | C20H29NO3Si
